US07560568B2
Ethyl 2-(acetylamino)-4-hydroxy-1,3-thiazole-5-carboxylate (6.04 g, 26.2 mmol) was dissolved in 100 mL of N,N-dimethylformamide with stirring. Potassium carbonate (3.98 g, 28.8 mmol) was added in a single portion. 2-Trifluoromethylbenzyl bromide (6.58 g, 27.5 mmol) in 20 mL of N,N-dimethylformamide was added via syringe. The reaction was stirred for 16 hours and poured into water and ethyl acetate. The layers were separated, and the organic layer was washed with brine. The combined aqueous layers were extracted with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. Purification by flash chromatography afforded 6.23 g (61%) of ethyl 2-(acetylamino)-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate. 1H NMR (300 MHz, DMSO-d6) δ 12.62 (s, 1H), 7.92 (m, 1H), 7.82-7.71 (m, 2H), 7.58 (m, 1H), 5.60 (s, 2H), 4.19 (q, J=7.2 Hz, 2H), 2.17 (s, 3H), 1.25 (t, J=7.2 Hz, 3H).

reactant | Ethyl 2-(acetylamino)-4-hydroxy-1,3-thiazole-5-carboxylate | 26.2 mmol, 6.04 g | C(C)(=O)NC=1SC(=C(N1)O)C(=O)OCC | C8H10N2O4S
reactant | Potassium carbonate | 28.8 mmol, 3.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Trifluoromethylbenzyl bromide | 27.5 mmol, 6.58 g | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(acetylamino)-4-({[2-(trifluoromethyl)-phenyl]methyl}oxy)-1,3-thiazole-5-carboxylate | 6.23 g, 61% | C(C)(=O)NC=1SC(=C(N1)OCC1=C(C=CC=C1)C(F)(F)F)C(=O)OCC | C16H15F3N2O4S
